US07402595B2
2-{4-[bis(methylsulfonyl)amino]benzyl}-6-bromo-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester
To a solution of 2-(4-aminobenzyl)-6-bromo-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester (139 mg) in tetrahydrofuran (5 ml) was added triethylamine (0.48 ml), methanesulfonyl chloride (0.07 ml) was added and the mixture was stirred at room temperature for 3 hrs. The solvent was evaporated under reduced pressure, 1N hydrochloric acid was added, and the mixture was extracted with dichloromethane. The extract was washed with saturated brine and dried by adding sodium sulfate. The solvent was evaporated under reduced pressure, and the obtained residue was purified by silica gel column chromatography (n-hexane/ethyl acetate=3/1-+2/3) to give the title compound (110 mg, 59%).

reactant | 2-(4-aminobenzyl)-6-bromo-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester | 139 mg | COC(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)Br)=O)CC1=CC=C(C=C1)N | C24H19BrN2O3
reactant | triethylamine | 0.48 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.07 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 2-{4-[bis(methylsulfonyl)amino]benzyl}-6-bromo-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester | 110 mg, 59% | COC(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)Br)=O)CC1=CC=C(C=C1)N(S(=O)(=O)C)S(=O)(=O)C | C26H23BrN2O7S2
